US04508658
Cyanoacetic acid pentachlorophenyl ester
17 g. (0.2 moles) of cyanoacetic acid are dissolved in 150 ml. of dichloromethane and 40 g. (0.2 moles) of dicyclohexylcarbodiimide and 52 g. (0.2 moles) of pentachlorophenol dissolved in 200 ml. of dichloromethane are added dropwise at room temperature. The mixture is stirred for 4 hours at room temperature. The mixture is cooled to 0° C. and the precipitated dicyclohexylcarbodiimide is filtered and the solvent is distilled off. The residue is taken up in diisopropyl ether, filtered and dried.

reactant | cyanoacetic acid | 0.2 moles | C(#N)CC(=O)O | C3H3NO2
reactant | dicyclohexylcarbodiimide | 0.2 moles | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | pentachlorophenol | 0.2 moles | ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl | C6HCl5O
solvent | dichloromethane | ClCCl | CH2Cl2
product | Cyanoacetic acid pentachlorophenyl ester | ClC1=C(C(=C(C(=C1OC(CC#N)=O)Cl)Cl)Cl)Cl | C9H2Cl5NO2
